US07982047B2
Synthesis of 1-cyclopropyl-2-(3-methyl-1,2,4-oxadiazol-5-yl)ethanone
Under an inert atmosphere, acetamidoxime (1.56 g) is added to a solution of methyl 3-cyclopropyl-3-oxopropanoate (3.0 g) in 50 ml of toluene; the stirred mixture is heated to 130° C. while distilling off the solvent and methanol formed in the reaction.

reactant | acetamidoxime | 1.56 g | C(C)(N)=NO | C2H6N2O
reactant | methyl 3-cyclopropyl-3-oxopropanoate | 3.0 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-cyclopropyl-2-(3-methyl-1,2,4-oxadiazol-5-yl)ethanone | C1(CC1)C(CC1=NC(=NO1)C)=O | C8H10N2O2
